US04402960
2.61 g of 4,5-bis(4-methoxyphenyl)-2-(2-amino-4-trifluoromethylphenylthio)imidazole hydrochloride is suspended in a mixture of 70 ml of absolute ethanol, 30 ml of absolute dioxane, and 365 mg of hydrochloric acid and combined at 0° with 0.586 g of isoamyl nitrite. The mixture is agitated for 30 minutes, then heated for 2 hours to boiling, and the solution evaporated to dryness under vacuum. The residue is distributed between ethyl acetate and sodium bicarbonate solution. The organic solution is dried over sodium sulfate and concentrated to dryness under vacuum. The residue is crystallized from ether/methylene chloride, thus obtaining 2.01 g of 4,5-bis(4-methoxyphenyl)-2-(4-trifluoromethylphenylthio)imidazole, mp 184°-186°.

reactant | 4,5-bis(4-methoxyphenyl)-2-(2-amino-4-trifluoromethylphenylthio)imidazole hydrochloride | 2.61 g | Cl.COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SC1=C(C=C(C=C1)C(F)(F)F)N
reactant | dioxane | 30 ml | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | 365 mg | Cl | ClH
reactant | isoamyl nitrite | 0.586 g | N(=O)OCCC(C)C | C5H11NO2
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 4,5-bis(4-methoxyphenyl)-2-(4-trifluoromethylphenylthio)imidazole | 2.01 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SC1=CC=C(C=C1)C(F)(F)F | C24H19F3N2O2S
